* Z:\home\joseph\projects\weather-station\hardware\ltspice\125Mhz_LP_filter_calculator.asc
L1 N001 P001 33n Rser=0.75
L2 P001 P002 120n Rser=0.65
L3 P002 P003 96n Rser=0.16
C1 P002 0 47p
C2 P001 0 36p
C3 P003 0 13p
C4 N002 P003 470p
R1 N002 0 50
V1 N001 0 AC 1 Rser=50
.ac dec 175 50Meg 300Meg
.step param R 10 200 50
.step param R2 10 200 50
.net I(R1) V1
.backanno
.end
