* Z:\home\joseph\projects\weather-station\hardware\ltspice\Draft4.asc
C1 N002 0 330 Rser=.01
L1 N002 0 2.4n Rser=.1
C2 N003 0 470p Rser=.01
L2 N003 0 2.4n Rser=.1
C3 P001 N002 1p Rser=.01
L3 P001 N003 1.2µ Rser=.1
L4 N004 N005 1.2µ Rser=.1
C4 N004 N003 1.5p Rser=.01
R1 N005 0 50
V1 N001 0 AC 1 Rser=0
R3 N002 N001 50
.ac oct 100 100Meg 400Meg
.backanno
.end
